Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My school brought me to the ER." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ initial consultation note 
dated ___, Dr. ___ initial consultation note 
dated ___, and Dr. ___ admission note dated 
___. 
.
Briefly, this is a ___ year old single woman, currently a 
freshman at ___ with no formal psychiatric history, 
no prior psychiatric hospitalizations or suicide attempts, 
unremarkable past medical history, who presented to ___ via 
campus safety from her school due to concern for her safety 
after a knife was followed under her bed. 
.  
Upon initial interview, patient reported "feeling low" and has 
been' Under a lot of stress lately" in the setting of a break up 
with her boyfriend of ___ years several months and a recent 
sexual assault, for which she had been seen in the ED for sexual 
assault and alcohol intoxication. After this incident, the 
patient reported she had been using substantially more alcohol 
for the past several days and had been smoking cannabis in order 
to sleep. She also stated she had been struggling to attend 
class and had been fired from her job as a ___ because she 
did not show up for her shifts. Patient initially declined to 
state why she was found with a knife under her bed but after 
further discussion, she stated she had gone under her bed to get 
a granola bar and had meant to place the knife with her other 
cooking supplies but was too "lazy" to put the knife away and so 
she rested it on the bed. Patient reported passive SI but denied 
intent or plan. 
.
Patient initially reported reduced appetite which she attributed 
to some nausea caused by the PEP, anhedonia, lack of motivation, 
feelings of numbness. 
. 
Per collateral from ___ received anonymous 
calls about her having self-harm. Resident met with student, she 
was crying. Saying she wanted to self-harm. Was sleeping with a 
kitchen knife ___ in long).  
Known to counseling. Does not know if she has any medications. 
Past two weeks, things have been escalating. She has been more 
impulsive and drinking more. Transported by campus safety 
members. 
. 
ED course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with the patient, who was mostly calm and 
cooperative, she stated that she had been doing relatively well, 
feeling "normal" until approximately a month ago following the 
break up with her boyfriend of ___ years, ___. Stated that 
their relationship had always been "good and we did everything 
together" but stated that when they went to separate colleges 
following high school graduation, "I started to have different 
things going on and he had difficulty with that and it caused 
problems." Stated on my examination that they broke up a month 
ago and "we decided to be friends." Reported this has been 
difficult and she is ambivalent, noting, "I broke up with him 
because my friends told me the relationship was toxic and 
controlling." Ms. ___ stated that, "I do get confused-- 
he thinks he's caring" but went on to state that "he made me 
text me every hour or he gets mad at me, I can't go out without 
him getting mad." She also went on to state that she is "scared 
that he is getting hurt by the rape." 
. 
Ms. ___ went on to confirm that she was sexually 
assaulted by a known acquaintance a week ago. Following the 
incident, she stated she "got really drunk and tried to hang out 
but then I realized what happened." She was brought to the ED. 
Stated that she has not seen her assaulter, but that he has 
tried to call her. Stated that in order to cope, patient has 
been reaching out to ___ but also has the support of friends. 
. 
On my interview, patient denied depression and although she did 
not comment on her sleep, she stated she has not been tired. 
Reported "okay" energy, concentration, and appetite. Denies 
suicidal ideation on my examination and denied self injury. On 
psychiatric review of systems, patient denied history of 
psychosis including AVH, paranoia. Denied history of manic 
symptoms including decreased need for sleep, grandiosity, 
excessive amounts of energy. Denied flashbacks or nightmares on 
my examination, stating she is more worried about how the 
assault is affecting ___. Denies binging or purging. Denies 
anxiety, panic attacks. 
.
When asked how we could be helpful, patient stated she wanted to 
leave as soon as possible with the plan to follow up with 
outpatient providers. 
 
Past Medical History:
Past Psychiatric History:
- Diagnoses: Denies 
- SA/SIB: denies/denies
- Hospitalizations: denies 
- Therapist: none
- Psychiatrist: none
- Medication Trials: denies. 
. 
Past Medical History: 
- Sexual assault one week ago, prescribed PEP and connected to 
SANE here
 
Social History:
Substance Use History: 
- Alcohol: reports occasional use in social situations
- Illicits: denies, reports experimentation with cannabis in the 
past 
- Tobacco: denies 
. 
Social History: ___
Family History:
- Diagnoses: denies 
- Suicides: denies 
- Addictions: denies 
 
Physical Exam:
VS: ___ 1525 Temp: 98.0 PO BP: 104/67 HR: 69 O2 sat: 99%RA 
General: ___ year old female in NAD. Well-nourished,
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, or lesions.
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to last three presidents
Fund of knowledge: consistent with education
Calculations: $1.75=7 quarters
Abstraction: "The grass is always greener on the other side" =
"There's always something better than what you have."
Speech: normal rate, volume, and tone
Language: Fluent, non-native ___ speaker, no paraphasic
errors, appropriate to conversation
Mental Status:
Appearance: No apparent distress, holding with stuffed rabbit,
appears stated age, well groomed, casually dressed in ___ length
sleeve shirt and sweat pants.  
Behavior: Calm, cooperative, guardedly engaged, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: "Angry" / blunted, restricted  with rare full
range, of affect, appropriate to situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: impaired/impaired

Discharge Examination: 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted. 
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, full range, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Pertinent Results:
___ 07:26PM   GLUCOSE-72 UREA N-18 CREAT-1.0 SODIUM-142 
POTASSIUM-4.8 CHLORIDE-102 TOTAL CO2-28 ANION GAP-12
___ 07:26PM   ALT(SGPT)-12 AST(SGOT)-21 ALK PHOS-79 TOT 
BILI-0.3
___ 07:26PM   CALCIUM-10.2 PHOSPHATE-4.2 MAGNESIUM-1.9
___ 07:26PM   VIT B12-477 FOLATE-10
___ 07:26PM   TSH-1.7
___ 07:26PM   HCG-<5
___ 08:48PM URINE  UCG-NEGATIVE
___ 08:48PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:48PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 08:48PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 05:56PM   GLUCOSE-132* UREA N-11 CREAT-0.7 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-25 ANION GAP-13
___ 05:56PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 05:56PM   WBC-4.8 RBC-4.37 HGB-13.9 HCT-41.4 MCV-95 
MCH-31.8 MCHC-33.6 RDW-12.0 RDWSD-42.0
___ 05:56PM   NEUTS-51.6 ___ MONOS-7.1 EOS-2.5 
BASOS-0.6 IM ___ AbsNeut-2.47 AbsLymp-1.82 AbsMono-0.34 
AbsEos-0.12 AbsBaso-0.03
___ 05:56PM   PLT COUNT-___riefly, this is a ___ year old single woman, currently a 
freshman at ___ with no formal psychiatric history, 
no prior psychiatric hospitalizations or suicide attempts, 
unremarkable past medical history, who presented to ___ via 
campus safety from her school due to concern for her safety 
after a knife was followed under her bed. 
.
Initial interview with patient seemed to be limited, as patient 
was a reluctant historian but notable for recent low mood, 
reports of anhedonia, passive suicidal ideation in the setting 
of recent break up with her boyfriend of ___ years with apparent 
worsening of symptoms in the past week following a sexual 
assault. On my interview with Ms. ___, she denied all 
symptoms of depression or suicidal ideation, anxiety, or 
ASD/PTSD. Mental status examination was notable for a well 
groomed woman who was calm, cooperative with "okay" mood and 
euthymic affect. Thought process was notably linear, logical, 
goal and future oriented.
. 
Diagnostically, although my history is different than the one 
initially presented in the ED, patient does likely meet criteria 
for acute stress disorder and adjustment disorder with some 
depressive symptoms. Of note, reported substance use (alcohol 
and cannabis) may be contributing to her current presentation, 
although her toxicology screen was negative for alcohol use on 
admission. Given her euthymic affect and denial of depressive 
symptoms, I do not believe she is suffering from a major 
depressive disorder at this time. Patient is also denying 
flashbacks, nightmares at this time. Nothing in her history to 
suggest a history of mania and she is certainly not manic on my 
examination-- no evidence of bipolar disorder or psychosis at 
this time. 
. 
Given denial of depression, suicidal ideation, benign mental 
status examination with the patient and her family's strong 
desire/preference to leave the hospital with outpatient 
follow-up, and given the risk of making an involuntary admission 
a potentially negative experience with psychiatric treatment, it 
was reasonable at this time to discharge the patient from the 
inpatient unit with follow up as an outpatient. Patient did 
decline medication at this time, stating she would follow up 
with ___ and her outpatient ___ further 
assistance. 
.
#. Legal/Safety: patient admitted to ___ on a ___, upon admission she signed a conditional voluntary form, 
which was accepted. She maintained her safety overnight on 15 
minute checks and did not require physical or chemical 
restraints. 
. 
#. Psychiatric: with presentation consistent with adjustment 
disorder, ASD as noted above 
- Patient declined all psychiatric medications 
- Discharged back to school with re-entry appointment as noted 
in discharge worksheet. 
. 
#. HIV prophylaxis, s/p assault.
- Continued Emtricitabine-Tenofovir 1 tab po daily 
- Continued Dolutegravir 50 mg PO daily

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dolutegravir 50 mg PO DAILY 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Medications:
1. Dolutegravir 50 mg PO DAILY 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder 
Acute stress disorder 

 
Discharge Condition:
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted. 
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, full range, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___